US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-1-(4-cyanobenzoyl)-N-[2-(1H-pyrrol-1-yl)phenyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-cyanobenzoyl chloride, and 2-(1H-pyrrol-1-yl)phenylamine the title compound was obtained in 51% purity by LC/MS. MS(ESI+): m/z=454.4.

reactant | (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 2-(1H-pyrrol-1-yl)phenylamine | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
product | (2S,4EZ)-4-[(allyloxy)imino]-1-(4-cyanobenzoyl)-N-[2-(1H-pyrrol-1-yl)phenyl]-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(C1=CC=C(C=C1)C#N)=O)C(=O)NC1=C(C=CC=C1)N1C=CC=C1 | C26H23N5O3
